US05670503
To a mixture of 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (118 mg) and pyridine (64 mg) in N-methyl-1-pyrrolidone (2 ml) was added phenylacetyl chloride (65 mg) under nitrogen atmosphere with ice cooling. After stirring for 1 hour at 4° C., the reaction mixture was poured into cold water. The separated oil was extracted with ethyl acetate and the extract was washed with brine, dried and concentrated in vacuo. The residue was purified by column chromatography on silica gel and the obtain oil was dissolved in 10% methanolic hydrogen chloride (1 ml). The resulting clear solution was concentrated in vacuo. The residue was crystallized from ethyl acetate to give 7-(4-fluorophenyl)-2-phenylacetyl-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine hydrochloride (130 mg).

reactant | 7-(4-fluorophenyl)-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 118 mg | FC1=CC=C(C=C1)C1=NN2C(NNCC2)=C1C1=CC=NC=C1 | C16H14FN5
reactant | pyridine | 64 mg | N1=CC=CC=C1 | C5H5N
reactant | phenylacetyl chloride | 65 mg | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | water | O | H2O
product | 7-(4-fluorophenyl)-2-phenylacetyl-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine hydrochloride | 130 mg | Cl.FC1=CC=C(C=C1)C1=NN2C(N(NCC2)C(CC2=CC=CC=C2)=O)=C1C1=CC=NC=C1 | InChI=1S/C24H20FN5O.ClH/c25-20-8-6-19(7-9-20)23-22(18-10-12-26-13-11-18)24-29(28-23)15-14-27-30(24)21(31)16-17-4-2-1-3-5-17;/h1-13,27H,14-16H2;1H
